US07342014B2
(1R*,3R*,6S*)-3-(Methoxymethyl) oxabicyclo[4.1.0]heptane
The product (4.63 g) obtained by the reaction in 2) was dissolved in tetrahydrofuran (50 ml), potassium bis(trimethylsilyl)amide (0.5N toluene solution, 80 ml) was added to the solution at −78° C. After stirring at same temperature for 10 minutes, methyl iodide (2.93 ml) was added. After heating the mixture to 0° C., it was stirred for 1 hour, quenched with a saturated aqueous solution of ammonium chloride and then diluted with diethyl ether. An organic layer was separated, washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to obtain the title compound (3.7 g).

reactant | potassium bis(trimethylsilyl)amide | 0.5N, 80 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl iodide | 2.93 ml | CI | CH3I
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (1R*,3R*,6S*)-3-(Methoxymethyl) oxabicyclo[4.1.0]heptane | 3.7 g | COC[C@@H]1O[C@@H]2C[C@@H]2CC1 | C8H14O2
